US06054414
5. 8-Methylthiochroman-4-one-7-carboxylic acid
41.1 g (0.17 mol) of methyl 8-methylthiochroman-4-one-7-carboxylate are hydrolyzed under reflux with 10.3 g (0.26 mol) of NaOH in a mixture of 400 ml of water and methanol. The methanol is then distilled off and the residue is diluted with water and acidifed with 2N hydrochloric acid. The useful product precipitates out and is filtered off with suction, washed with water and dried.

reactant | methyl 8-methylthiochroman-4-one-7-carboxylate | 0.17 mol, 41.1 g | CC=1C(=CC=C2C(CCSC12)=O)C(=O)OC | C12H12O3S
reactant | NaOH | 0.26 mol, 10.3 g | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
solvent | methanol | CO | CH4O
product | 8-Methylthiochroman-4-one-7-carboxylic acid | CC=1C(=CC=C2C(CCSC12)=O)C(=O)O | C11H10O3S
